US06130234
4-(4-Methylbenzyl)-4-hydroxy-1-(but-3-yn-1-yl)piperidine
A mixture of 4-methyl-4-hydroxybenzylpiperidine hydrocholoride (1.3 g, 5.4 mmol), 1-butyn-4-yl methanesulfonate (0.96 g, 6.5 mmol), potassium carbonate (2.5 g, 18 mmol) in 50 mL of acetonitrile was allowed to reflux for 12 hrs. The inorganic salt was removed through a short column of silica gel and washed with ethyl acetate (3×30 mL). Evaporation of solvents gave a residue, which was purified by flash chromatography (50% EtOAc in hexane), giving 0.90 g (65%) of the title compound as a pale yellow oil. 1H NMR (CDCl3) 1.258 (m, 2 H), 1.883 (m, 2 H), 1.962 (m, 3 H), 2.040 (m, 2 H), 2.342 (s, 3 H), 2.399 (m, 2 H), 2.611 (m, 3 H), 2.708 (m, 2 H), 7.060-7.135 (m, 4 H).

reactant | 4-methyl-4-hydroxybenzylpiperidine | CC1(CC=C(CN2CCCCC2)C=C1)O | C13H21NO
reactant | 1-butyn-4-yl methanesulfonate | 6.5 mmol, 0.96 g | CS(=O)(=O)OCCC#C | C5H8O3S
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(4-Methylbenzyl)-4-hydroxy-1-(but-3-yn-1-yl)piperidine | 0.90 g, 65% | CC1=CC=C(CC2(CCN(CC2)CCC#C)O)C=C1 | C17H23NO
